US05686470
2-Butoxy-6-(4-fluorophenyl)-5-[4-(methylsulfonyl)phenyl]pyridine-3-carboxaldehyde
Diisobutyl aluminum hydride (1.0M in toluene, 3 mL, 3 mMol) was added in three portions over 26 hours (0 hrs., 24 hrs., 26 hrs.) to a solution of 2-butoxy-6-(4-fluorophenyl)-5-[4-(methylsulfonyl)phenyl]pyridine-3-carbonitrile, Example 14, (0.42 gm, 1 mMol) in toluene (75 mL) and stirred at room temperature. Methyl alcohol (5 mL) was added dropwise followed by a solution of water (5 mL) in methyl alcohol (25 mL). The layers were separated and the organic layer was dried over anhydrous sodium sulfate, filtered and concentrated to a semi-solid. The products were separated and purified by silica gel chromatography. Example 29 Anal. Calc. C23 H24NO4SF: C, 64.32; H, 5.63; N, 3.26. Found: C, 64.27; H, 5.59; N, 3.23. Example 30 Anal. Calc. C23H22NO4SF: C, 64.62; H, 5.19; N, 3.28. Found: C, 64.84; H, 5.39; N, 3.58.

reactant | Diisobutyl aluminum hydride | 3 mMol, 1.0M, 3 mL | [H-].C(C(C)C)[Al+]CC(C)C
reactant | 2-butoxy-6-(4-fluorophenyl)-5-[4-(methylsulfonyl)phenyl]pyridine-3-carbonitrile | C(CCC)OC1=NC(=C(C=C1C#N)C1=CC=C(C=C1)S(=O)(=O)C)C1=CC=C(C=C1)F | C23H21FN2O3S
reactant | water | 5 mL | O | H2O
solvent | toluene | 75 mL | C1(=CC=CC=C1)C | C7H8
solvent | methyl alcohol | 25 mL | CO | CH4O
solvent | Methyl alcohol | 5 mL | CO | CH4O
product | 2-Butoxy-6-(4-fluorophenyl)-5-[4-(methylsulfonyl)phenyl]pyridine-3-carboxaldehyde | C(CCC)OC1=NC(=C(C=C1C=O)C1=CC=C(C=C1)S(=O)(=O)C)C1=CC=C(C=C1)F | C23H22FNO4S
